US05637574
2-Amino-6-cyclobutoxy-9H-purine (0.50 g, 2.4 mmoles) and 2'3'-dideoxy-3'-fluorouridine (0.67 g, 2.9 mmoles) were suspended in potassium phosphate buffer (50 ml, 10 mM), pH 7.0, containing 0.04% potassium azide. Purine nucleoside phosphorylase (1120 I.U.) and thymidine phosphorylase (10,000 I.U.) immobilized on DEAE cellulose was added to the reaction and the suspension was stirred at 45° C. After 8 days, MeOH (150 ml) was added to the reaction. The reaction was applied to a column containing AG1-X2 (OH- form, 2.5×10 cm) and eluted with MeOH. Fractions containing product were pooled, concentrated, and flash chromatographed on silica gel (2.5×20 cm) with dichloromethane:acetone (92:8) as eluant. Solvent was removed and lyophilization yielded 0.57 g of 2-amino-6-cyclobutoxy-9-(2,3-dideoxy-3-fluoro-β-D-erythropentofuranosyl)-9H-purine (70%): mp 139°-140° C.;

reactant | 2-Amino-6-cyclobutoxy-9H-purine | 2.4 mmoles, 0.50 g | NC1=NC(=C2N=CNC2=N1)OC1CCC1 | C9H11N5O
reactant | 2'3'-dideoxy-3'-fluorouridine | 2.9 mmoles, 0.67 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | MeOH | 150 ml | CO | CH4O
product | 2-amino-6-cyclobutoxy-9-(2,3-dideoxy-3-fluoro-β-D-erythropentofuranosyl)-9H-purine | 0.57 g, 70% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)OC1CCC1 | C14H18FN5O3
